### PR TITLE
[Merged by Bors] - refactor: link the Stone-Weierstrass theorem to the `StarSubalgebra` API

### PR DESCRIPTION
**Pull request by j-loreaux**
The Stone-Weierstrass theorem, including the version for `IsROrC 𝕜`, was developed prior to the introduction of `StarSubalgebra`. As such, in order to prove it, a predicate `ConjInvariantSubalgebra` was introduced for `ℝ`-subalgebras of `C(X, 𝕜)`. This refactors the Stone-Weierstrass theorem to instead use the `StarSubalgebra` API and removes `ContinuousMap.ConjInvariantSubalgebra` entirely. In addition, we provide a few corollaries concerning polynomial functions which are missing from the library.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/NormedSpace/Star/GelfandDuality.lean [hunk 1]
```diff
@@ -159,31 +159,33 @@ theorem gelfandTransform_isometry : Isometry (gelfandTransform ℂ A) := by
 /-- The Gelfand transform is bijective when the algebra is a C⋆-algebra over `ℂ`. -/
 theorem gelfandTransform_bijective : Function.Bijective (gelfandTransform ℂ A) := by
   refine' ⟨(gelfandTransform_isometry A).injective, _⟩
-  suffices (gelfandTransform ℂ A).range = ⊤ by
-    exact fun x => ((gelfandTransform ℂ A).mem_range).mp (this.symm ▸ Algebra.mem_top)
+  /- The range of `gelfandTransform ℂ A` is actually a `StarSubalgebra`. The key lemma below may be
+    hard to spot; it's `map_star` coming from `WeakDual.Complex.instStarHomClass`, which is a
+    nontrivial result. -/
+  letI rng : StarSubalgebra ℂ C(characterSpace ℂ A, ℂ) :=
```
Comment (dupuisf) [inline Mathlib/Analysis/NormedSpace/Star/GelfandDuality.lean:165]: Why is this a `letI` as opposed to just a regular `let`?

Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/Star/GelfandDuality.lean]: I guess no reason. Switched.

**Review by dupuisf — COMMENTED** [review]
Thanks!

bors r+
